US05145860
A mixture of 1,2-bis(4-methoxyphenyl)-2-chloroethanone (5.00 g) and 2-tert-butyloxycarbonylamino-2-methylpropanethioamide (4.50 g) in dimethylformamide (25 ml) was stirred at 70° C. for 6 hours. After allowing to cool to the ambient temperature, the reaction mixture was dropped into water. The precipitates were collected by filtration. The resulting residue (6.28 g) was dissolved with dichloromethane (120 ml), and stirred at 2° C. To the reaction mixture was added 1,4-dioxan solution of 4N hydrogen chloride (60 ml), and stirred at ambient temperature for 1 hour. The resulting residue was evaporated in vacuo. The residue was added iso-propyl ether (300 ml) and stirred at 2° C. for 3 hours. The resulting precipitate was collected by filtration and washed with iso-propyl ether, to give 2-(1-amino-1-methylethyl)-4,5-bis(4-methoxyphenyl)thiazole hydrochloride (5.5 g).

reactant | 1,2-bis(4-methoxyphenyl)-2-chloroethanone | 5.00 g | COC1=CC=C(C=C1)C(C(Cl)C1=CC=C(C=C1)OC)=O | C16H15ClO3
reactant | 2-tert-butyloxycarbonylamino-2-methylpropanethioamide | 4.50 g | C(C)(C)(C)OC(=O)NC(C(N)=S)(C)C | C9H18N2O2S
reactant | water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-(1-amino-1-methylethyl)-4,5-bis(4-methoxyphenyl)thiazole hydrochloride | 5.5 g | Cl.NC(C)(C)C=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | InChI=1S/C20H22N2O2S.ClH/c1-20(2,21)19-22-17(13-5-9-15(23-3)10-6-13)18(25-19)14-7-11-16(24-4)12-8-14;/h5-12H,21H2,1-4H3;1H
